US07112605B2
N-Propyl-β-hydroxy-4-methyl-phenethylamine
4-Methyl styrene oxide(1.0 g,8.0 mmol)and 3 ml of propylamine in methanolic solution were charged into a flask. The flask was sealed and put in a refrigerator for 5–7 days. The solution was concentrated and the residue crystallized from ether, the title compound was obtained as white needle crystals, mp. 73.0–75.1 C, yield 49.6%.

reactant | 4-Methyl styrene oxide | 8.0 mmol, 1.0 g | CC1=CC=C(C2CO2)C=C1 | C9H10O
reactant | propylamine | 3 ml | C(CC)N | C3H9N
product | N-Propyl-β-hydroxy-4-methyl-phenethylamine | yield 49.6% | C(CC)NCC(C1=CC=C(C=C1)C)O | C12H19NO
